Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ s/p laparoscopic total abdominal colectomy w ileosigmoid
anastomosis ___ for slow transit constipation presents w
progressively worsening abdominal pain, nausea/vomiting, and
fevers  to 101 at home. She initially presented to ___ early this am, where she was noted to have leukocytosis
to 13,000. She was given 1L crystalloid, IV pain/nausea meds, 
and
then transferred to ___ ED for further management.

Patient had an uneventful course post operatively other than 
some
pain control issues with multiple PO pain regimens tried. She
passed flatus and was having loose stools by POD2, and was
ultimately discharged on POD3 w PO morphine sulfate ___ and
standing tylenol. Although there was some improvement in her 
pain
with the ___ morphine, she did not feel her pain was particularly
well controlled at discharge but was manageable. At this time 
she
was tolerating a regular diet and did not have any nausea.
However last night she experienced worsening periumbilical
abdominal pain, which she describes as a tearing sensation, 
which
was associated with nausea and non-bilious emesis. Vomited a
total of 4 times, most recent was approximately 5 hours ago. She
has not been able to tolerate even small amounts of PO's.
Although her stools have always been loose post operatively,
yesterday she started experiencing fecal incontinence with some
blood mixed in, approximately ___ episodes. In addition had 
fever
at home to 101, although has been afebrile here and at OSH.
Review of systems also notable for R sided vaginal pain and
labial edema, but denies any vaginal discharge, dysuria, or
polyuria. 

 
Past Medical History:
Bialteral ovarian cyst
Drug/EtOH abuse
Anxiety
Depression
Gastritis
Peptic 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: T 98.6 HR 73 BP 109/67 RR 16 Sat99% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, tender to palpation periumbilical 
region and b/l lower quadrants w voluntary guarding, no rebound 
tenderness. Incisions c/d/i w surrounding ecchymoses but no 
erythema
DRE: normal tone, no gross blood, no palpable masses/strictures
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 07:40AM BLOOD WBC-7.4# RBC-3.63* Hgb-10.5* Hct-31.1* 
MCV-86 MCH-28.8 MCHC-33.6 RDW-12.3 Plt ___
___ 07:00AM BLOOD WBC-4.8 RBC-3.47* Hgb-10.6* Hct-30.1* 
MCV-87 MCH-30.6 MCHC-35.2* RDW-13.0 Plt ___
___ 10:26AM BLOOD WBC-8.4 RBC-3.77* Hgb-11.0* Hct-33.1* 
MCV-88 MCH-29.2 MCHC-33.3 RDW-12.9 Plt ___
___ 10:26AM BLOOD Neuts-81.6* Lymphs-11.7* Monos-5.4 
Eos-1.3 Baso-0.1
___ 07:40AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 10:26AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-82 UreaN-4* Creat-0.5 Na-138 
K-4.4 Cl-102 HCO3-25 AnGap-15
___ 07:00AM BLOOD Glucose-87 UreaN-6 Creat-0.5 Na-141 K-3.8 
Cl-103 HCO3-27 AnGap-15
___ 10:26AM BLOOD Glucose-114* UreaN-8 Creat-0.5 Na-139 
K-4.2 Cl-103 HCO3-31 AnGap-9
___ 07:40AM BLOOD Calcium-8.7 Phos-2.2* Mg-2.0
___ 07:00AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.7
___ 10:26AM BLOOD Calcium-8.7 Phos-3.7# Mg-1.7
___ 10:33AM BLOOD Comment-GREEN TOP
___ 10:33AM BLOOD Lactate-0.8
___ 08:07AM URINE Color-Yellow Appear-Clear Sp ___
___ 10:15AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:07AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 10:15AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 08:07AM URINE RBC->182* WBC-22* Bacteri-FEW Yeast-NONE 
Epi-5 TransE-<1
___ 10:15AM URINE RBC-4* WBC-23* Bacteri-FEW Yeast-NONE 
Epi-11 TransE-<1
___ 10:15AM URINE Mucous-MANY

___ 4:04 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
 

 
Brief Hospital Course:
Ms. ___ presented to the ___ emergency department with 
nausea, abdominal and nausea after colectomy. A CT scan with 
rectal contrast was obtained which did not show a leak however, 
showed dilated bowel compatable with ileus and a moderate amount 
of subcutaneous emphysema on the left side likely related to 
laparoscopy. She was admitted to the inpatient floor and 
monitored. She was hydrated with intravenous fluids and 
monitored closely. All laboratory values were stable. The 
following morning ___, the patient vomited and an NGT was 
placed with little return of bilious output. She began treatment 
of a urinary tract infection with Cipro IV. Overnight into 
___ she felt improved. The NGT was removed and she began to 
tolerate clears. She was passing liquid stool and flatus. Cdiff 
was ruled out. SHe was feeling improved however, pain in the 
right side of her abdomen continued. Pt's frequent loose bowel 
movements was improved with loperamide and psyllium wafers. Pt 
was instructed on how to titrate these medications to control 
her bowel movements after discharge. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently? She will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge. 

Include in Brief Hospital Course for Every Patient and check of 
boxes that apply:
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[x] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure 
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehabilitation hospital 
disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
discharge. 
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. linaclotide 290 mcg oral qd 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Venlafaxine XR 150 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Ciprofloxacin HCl 500 mg PO Q12H 
Last day ___ 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice 
daily Disp #*3 Tablet Refills:*0
3. LOPERamide 2 mg PO TID 
You may decrease dosage as frequency of stools decreases 
RX *loperamide [Anti-Diarrheal (loperamide)] 2 mg 1 tablet by 
mouth three times daily Disp #*30 Tablet Refills:*0
4. Omeprazole 40 mg PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 4 hours Disp 
#*30 Capsule Refills:*0
6. Psyllium Wafer 1 WAF PO BID 
RX *psyllium [Metamucil] 1.7 g 1 wafer(s) by mouth twice daily 
Disp #*30 Wafer Refills:*0
7. Venlafaxine XR 150 mg PO BID 
8. Docusate Sodium 100 mg PO BID 
9. linaclotide 290 mcg oral qd 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Post-op ileus

Secondary: Slow transit constipation s/p laparoscopic total 
abdominal colectomy w ileosigmoid anastomosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___. You were 
hospitalized for abdominal pain, nausea, and vomiting due to a 
condition called ileus, which is slowed transit of your bowels 
due to surgery. You were treated supportively, included IV fluid 
hydration, pain medications, and the placement of a nasogastric 
tube. The nasogastric tube was able to be successfully removed 
once your symptoms improved. You experienced frequent small 
loose bowel movements, which were treated with metamucil wafers 
and imodium, which resulted in improvement of these symptoms. In 
addition, you were started on antibiotics for a urinary tract 
infection and you will continue these antibiotics at home as 
instructed. You are able to tolerate a regular diet which you 
can continue at home, and you have been discharged in stable 
condition. 

Please record your ostomy output daily and bring this record 
with you to your follow-up appointment at the ___ clinic. 
As your loose stool movements decreases in frequency, you may 
decrease your dosage of imodium as tolerated.

Thank you for letting us participate in your care.
 
Followup Instructions:
___